US06458780B1
4-Nitrobenzyl(1S,5R,6S)-2-[5,7-bis(methylthio)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (140 mg) was dissolved in 2.5 ml of dichloromethane. m-Chloroperbenzoic acid (56 mg) was added to the solution. The mixture was stirred at room temperature for 15 min. An aqueous sodium thiosulfate solution (5 ml) was added thereto, followed by separation. The organic layer was washed with 10 ml of a semisaturated aqueous sodium hydrogencarbonate solution and 10 ml of semisaturated brine and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to give 97 mg of 4-nitrobenzyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methanesulfinyl-5-methylthioimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate (a mixture of diastereomers).

reactant | 4-Nitrobenzyl(1S,5R,6S)-2-[5,7-bis(methylthio)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 140 mg | CSC1=NC(=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)SC | C24H24N4O6S3
reactant | m-Chloroperbenzoic acid | 56 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 5 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methanesulfinyl-5-methylthioimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 97 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3SC)S(=O)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O7S3
